US07491716B2
2-(Thieno[3,2-b]pyridin-7-yl)acetamide
In a high pressure flask, dissolve (thieno[3,2-b]pyridin-7-yl)acetic acid (3.02 g, 13.65 mmol) in absolute ethanol (100 mL). Add ammonium chloride (1.09 g, 20.38 mmol) to the solution. Cool the solution to −78° C. Condense ammonia gas into the solution by bubbling (15 minutes at 10 psi). Seal the flask and slowly bring to ambient temperature. Stir the reaction at room temperature for 4 days. Cool the reaction vessel to −78° C. Open the flask and allow it to slowly return to ambient pressure. Filter the contents and wash with water (10 mL) to obtain the title compound as a white solid (1.46 g). Concentrate the filtrate and triturate the residue with diethyl ether. Filter and wash with water (5 mL) to obtain additional pure product (0.46 g).

reactant | (thieno[3,2-b]pyridin-7-yl)acetic acid | 13.65 mmol, 3.02 g | S1C=CC2=NC=CC(=C21)CC(=O)O | C9H7NO2S
reactant | ammonium chloride | 20.38 mmol, 1.09 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(Thieno[3,2-b]pyridin-7-yl)acetamide | 1.46 g | S1C=CC2=NC=CC(=C21)CC(=O)N | C9H8N2OS
